US07897817B2
In an ambient pressure oxygen atmosphere, 40.3 mg of cinnamyl alcohol, 105.3 mg of the platinum catalyst obtained in Example 1 and 40.2 mg of potassium carbonate were agitated for eighteen hours at 60° C. in 3 ml of water. The aqueous layer was subsequently washed using tert-butyl methyl ether and was extracted using ethyl acetate after neutralizing the layer with a HCl solution. The ethyl acetate solution was dried using magnesium sulfate, filtered and concentrated to obtain 41.5 mg (93% yield) of cinnamic acid. The reaction equation and the analytical results of the product are shown below.

reactant | oxygen | O=O | O2
reactant | cinnamyl alcohol | 40.3 mg | C(C=CC1=CC=CC=C1)O | C9H10O
reactant | potassium carbonate | 40.2 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | platinum | 105.3 mg | [Pt] | Pt
solvent | water | 3 ml | O | H2O
product | cinnamic acid | 41.5 mg, 93% yield | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
